US06562828B1
N-[2-[4-[2-(N,N′-Di-tert-Butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidin-1-yl]pyridin-5-yl]acetamide
To a solution of N,N′-di-tert-butoxycarbonyl-7-[1-(5-aminopyridin-2-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (100 mg) in tetrahydrofuran (1.5 ml) were added acetic anhydride (0.017 ml) and pyridine (0.017 ml), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=2:1). The obtained residue was dissolved in methanol and treated with active charcoal, and dried under reduced pressure to give the title compound (75 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-[1-(5-aminopyridin-2-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 100 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=NC=C(C=C1)N | C31H44N6O5
reactant | acetic anhydride | 0.017 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.017 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | N-[2-[4-[2-(N,N′-Di-tert-Butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidin-1-yl]pyridin-5-yl]acetamide | 75 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=NC=C(C=C1)NC(C)=O | C33H46N6O6
